US07163940B2
To a dry round bottom flask was added sodium metal (81 mg, 3.5 mmol). Ethanol (20 mL) was added and allowed to react with sodium at room temperature until completely dissolved. N-Cyclopentylguanidine hydrochloride (572 mg, 3.5 mmol) was added and the mixture was allowed to stir at room temperature for 10 minutes. To the resultant mixture was added 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-butyn-1-one (842 mg, 2.69 mmol) and the reaction mixture was allowed to stir at room temperature for 72 hours, then heated to 70° C. for 12 hours. The reaction mixture was cooled to room temperature and diluted with water. The mixture was extracted with ethyl acetate, and the combined extracts were washed with water and brine. The organic layer was dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (4:1 hexanes:ether to 3:2 hexanes:ether) provided 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-methyl-2-pyrimidinamine (1.11 g, 98%) as a yellow foam. Rf 0.45 (3:1 hexanes:ethyl acetate). 1H NMR (CDCl3) δ 8.35 (d, 1H), 7.64 (m, 2H), 7.24 (m, 1H), 7.13 (m, 2H), 7.03 (d, 1H), 6.22 (s, 1H), 5.10 (m, 1H), 4.35 (m, 1H), 2.19 (s, 3H), 2.03 (m, 2H), 1.60 (m, 6H); MS m/z 422 (M+1).

reactant | sodium | 3.5 mmol, 81 mg | [Na] | Na
reactant | Ethanol | 20 mL | C(C)O | C2H6O
reactant | N-Cyclopentylguanidine hydrochloride | 3.5 mmol, 572 mg | Cl.C1(CCCC1)NC(=N)N
reactant | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-butyn-1-one | 2.69 mmol, 842 mg | ClC1=CC=CC=2N1N=C(C2C(C#CC)=O)C2=CC=C(C=C2)F | C17H10ClFN2O
solvent | water | O | H2O
product | 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-methyl-2-pyrimidinamine | 1.11 g, 98% | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC(=C2)C)NC2CCCC2)C2=CC=C(C=C2)F | C23H21ClFN5
